*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-03[uF]/25[V]
* Murata P/N :GCM155R71E682KA37
* Property : C = 6.80e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71E682KA37 Port1 Port2
C01 Port1 N01 6.60e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 2.07e-10
R03 N02 N03 9.68e-02
C04 N03 N04 7.60e-07
R04 N03 N04 2.39e+03
C05 N04 N05 1.03e-06
R05 N04 N05 1.51e+02
C06 N05 N06 8.96e-07
R06 N05 N06 1.70e+01
C07 N06 N07 7.36e-07
R07 N06 N07 1.94e+00
C08 N07 N08 6.04e-07
R08 N07 N08 2.93e-01
C09 N08 N09 2.99e-07
R09 N08 N09 7.60e-02
L10 N09 N10 3.35e-11
R10 N09 N10 1.58e+00
L11 N10 N11 3.72e-11
R11 N10 N11 2.25e-01
C12 N11 N12 7.63e-09
L12 N11 N12 2.08e-11
R12 N11 N12 5.35e-02
C13 N12 Port2 5.56e-12
L13 N12 Port2 6.31e-11
R13 N12 Port2 7.39e+00
.ENDS GCM155R71E682KA37
